US08048887B2
2-(4-Fluorophenyl)-5-isopropoxy-6-(methylsulfonamido)benzofuran-3-carboxamide
Ammonia (6.1 ml, 12.2 mmol, 2M in MeOH) was added to a stirring solution of HATU (1.1 g, 2.95 mmol) and 2-(4-fluorophenyl)-5-isopropoxy-6-(methylsulfonamido)benzofuran-3-carboxylic acid (1.0 g, 2.46 mmol) in DMF (20 ml) at 0° C. It was allowed to warm to rt and stir for 1 hr. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the title compound (925 mg, 93%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.30-1.37 (m, 6H) 2.98 (s, 3H) 4.64-4.77 (m, 1H) 7.19 (s, 1H) 7.30-7.41 (m, 2H) 7.54 (s, 1H) 7.63-7.71 (m, 1H) 7.89 (s, 1H) 7.93-8.02 (m, 2H) 8.85 (s, 1H). LC-MS retention time: 1.26 min; m/z (MH+) 407. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Ammonia | 12.2 mmol, 2M, 6.1 ml | N | H3N
reactant | HATU | 2.95 mmol, 1.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(4-fluorophenyl)-5-isopropoxy-6-(methylsulfonamido)benzofuran-3-carboxylic acid | 2.46 mmol, 1.0 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C=C(C(=C2)NS(=O)(=O)C)OC(C)C | C19H18FNO6S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Fluorophenyl)-5-isopropoxy-6-(methylsulfonamido)benzofuran-3-carboxamide | 925 mg, 93% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)N)C=C(C(=C2)NS(=O)(=O)C)OC(C)C | C19H19FN2O5S
